US05114927
N1 -tert Butoxycarbonyl-2,2-difluoro-3-hydroxy-5-phenyl-1,4-pentanediamine
A solution of N4 -benzyloxycarbonyl-N1 -tert-butoxycarbonyl-2,2-difluoro-3-hydroxy-5-phenyl-1,4-pentanediamine (0.464 g, 1 mmol) in ethanol (20 mL) was stirred at room temperature in the presence of 10% Palladium on charcoal (0.020 g) under a hydrogen atmosphere for 5 hours. The hydrogen atmosphere was then replaced by a nitrogen atmosphere and the catalyst was filtered. The solvent was removed in vacuo leaving 0.030 g of the expected product (98% yield).

reactant | N4 -benzyloxycarbonyl-N1 -tert-butoxycarbonyl-2,2-difluoro-3-hydroxy-5-phenyl-1,4-pentanediamine | 1 mmol, 0.464 g | C(C1=CC=CC=C1)OC(=O)NC(C(C(CNC(=O)OC(C)(C)C)(F)F)O)CC1=CC=CC=C1 | C24H30F2N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Palladium on charcoal | 0.020 g | [Pd] | Pd
product | N1 -tert Butoxycarbonyl-2,2-difluoro-3-hydroxy-5-phenyl-1,4-pentanediamine | 0.030 g, 98% yield | C(C)(C)(C)OC(=O)NCC(C(C(CC1=CC=CC=C1)N)O)(F)F | C16H24F2N2O3
